US06624159B2
N-(4-Chlorobenzyl)-2-[(4-chlorobenzyl)amino]-9-(4-morpholinylmethyl)-7-oxo-3H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide [BG.1, Y=morpholinylmethyl, R10=4-chlorobenzyl]
A mixture of ethyl 9-(4-morpholinylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate (Preparation 4, 280 mg) and 4-chlorobenzylamine (1 mL) is heated at 180° C. The solution is cooled, diluted with methanol (2 mL), and the precipitate is filtered off. The resulting solid is washed with methanol followed by ether and dried to give 117 mg of the title compound. Physical characteristics: 1H NMR (DMSO-d6) δ2.35, 3.49, 3.57, 4.56, 4.60, 5.08, 7.20, 7.34-7.40, 7.64, 8.21, 8.62, 10.6. Anal. Found: C, 62.90; H, 4.99; N, 11.81; Cl, 12.03.

reactant | ethyl 9-(4-morpholinylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate | 280 mg | N1(CCOCC1)CC=1C=C2C=3N(CC(NC3C1)=O)C=C(C2=O)C(=O)OCC | C19H21N3O5
reactant | 4-chlorobenzylamine | 1 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | methanol | 2 mL | CO | CH4O
product | N-(4-Chlorobenzyl)-2-[(4-chlorobenzyl)amino]-9-(4-morpholinylmethyl)-7-oxo-3H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide | 117 mg | ClC1=CC=C(CNC(=O)C=2C(C=3C=4N(CC(=NC4C=C(C3)CN3CCOCC3)NCC3=CC=C(C=C3)Cl)C2)=O)C=C1 | C31H29Cl2N5O3
